US06380218B1
2-(4,5-Dichloro-thiophen-2-ylmethyl)-isoindole-1,3-dione
To a stirred solution of (4,5-Dichloro-thiophen-2-yl)-methanol (0.660 grams, 3.60 mmole), Phthalimide (0.636 grams, 4.32 mmole), and triphenyl phosphene (1.1 grams, 4.32 mmole) in tetrahydrofuran (20 ml) at room temperature was added diethyl azodicarboxylate (0.395 grams, 12.3 mmole) and stirred at room temperature over night. The mixture was poured into 100 ml water and extracted with diethyl ether. The combined extracts were washed with 1 N NaOH, water and brine, dried over MgSO4, filtered, and concentrated to an oil from which triphenylphosphine was crystalized out using diethyl ether/hexane. The mother liquor was concentrated to give a solid which was purified via flash chromatography on silica using 30% ethyl acetate/hexane as eluent to give a yellow solid. This was triturated in hexane to give a white solid (0.772 g). MW 312.18; MS (m/e) 313 (M++1).

reactant | (4,5-Dichloro-thiophen-2-yl)-methanol | 3.60 mmole, 0.660 grams | ClC=1C=C(SC1Cl)CO | C5H4Cl2OS
reactant | Phthalimide | 4.32 mmole, 0.636 grams | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | diethyl azodicarboxylate | 12.3 mmole, 0.395 grams | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-(4,5-Dichloro-thiophen-2-ylmethyl)-isoindole-1,3-dione | 0.772 g | ClC=1C=C(SC1Cl)CN1C(C2=CC=CC=C2C1=O)=O | C13H7Cl2NO2S
